
R$1 1 2 1.7k M=2
R$2 3 4 1.7k
M$1 1 2 3 4 NMOS W=2u L=7u M=2
M$2 1 2 3 4 PMOS W=2u L=7u 
C$1 1 2 1e-9 M=2 
C$2 3 4 1e-9 
D$1 1 2 DIODE A=10P M=2 
D$2 3 4 DIODE A=10P
Q$1 1 2 3 4 BIP AE=10P M=2 
Q$2 1 2 3 4 BIP AE=10P

