
R$1 1 2 1.7k M=2
R$2 3 4 1.7k
R$3 1 2 1.7k RMODEL M=2
R$4 3 4 1.7k RMODEL
R$5 3 4 RMODEL R=1.7k
R$6 3 4 5 RMODEL2 R=1.7k
R$7 3 4 5 1.7k RMODEL2
R$8 3 4 5 1.7k 
M$1 1 2 3 4 NMOS W=2u L=7u M=2
M$2 1 2 3 4 PMOS W=2u L=7u 
C$1 1 2 1e-9 M=2 
C$2 3 4 1e-9 
C$3 1 2 1e-9 CMODEL M=2 
C$4 3 4 1e-9 CMODEL 
C$5 3 4 CMODEL C=1e-9
C$6 3 4 5 CMODEL2 C=1e-9
C$7 3 4 5 1e-9
C$8 3 4 5 1e-9 CMODEL2
L$1 1 2 1e-9 M=2 
L$2 3 4 1e-9 
L$3 1 2 1e-9 LMODEL M=2 
L$4 3 4 1e-9 LMODEL 
D$1 1 2 DIODE A=10P M=2 
D$2 3 4 DIODE A=10P
Q$1 1 2 3 4 BIP AE=10P M=2 
Q$2 1 2 3 4 BIP AE=10P

